US08729105B2
Preparation of (SR)-5-(4-chlorophenyl)-6-((tetrahydrofuran-3-yl)methoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chloro-phenyl)-6-(tetrahydro-furan-3-ylmethoxy)-nicotinic acid (example CK) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; enantiomers were separated by chiral HPLC (ChiralPak AD, 30% ethanol/n-heptane (−) enantiomer isolated; LC-MS (UV peak area/ESI) 100%, 483.1038 (M+H)+; αD20(MeOH)=−12.2°

reactant | 5-(4-chloro-phenyl)-6-(tetrahydro-furan-3-ylmethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC1COCC1 | C17H16ClNO4
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | (SR)-5-(4-chlorophenyl)-6-((tetrahydrofuran-3-yl)methoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCC1COCC1 | C21H18ClF3N4O4
